US07732471B2
2-Methyl-6-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)propoxymethyl]benzoic acid
200 mg of tert-butyl 2-(3-hydroxypropoxymethyl)-6-methylbenzoate are dissolved in 1.0 ml of MTBE, and 57 mg of sodium hydride (60% in mineral oil) are added. After gas evolution ceases, 446 mg of 5-methyl-2-m-tolyloxazol-4-ylmethyl iodide are added, and the suspension is stirred at RT overnight. Water is then added, and the solution is poured into a kieselguhr cartridge (VARIAN CHEM ELUT 1010). The product is eluted with MTBE and concentrated. The residue is dissolved without purification in DCM/TFA (3:1) and stirred at 40° C. for 5 h. The solution is concentrated and purified by prep. HPLC, resulting in 202 mg of 2-methyl-6-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)propoxymethyl]benzoic acid.

reactant | tert-butyl 2-(3-hydroxypropoxymethyl)-6-methylbenzoate | 200 mg | OCCCOCC1=C(C(=O)OC(C)(C)C)C(=CC=C1)C | C16H24O4
reactant | sodium hydride | 57 mg | [H-].[Na+]
reactant | 5-methyl-2-m-tolyloxazol-4-ylmethyl iodide | 446 mg | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CI | C12H12INO
reactant | Water | O | H2O
solvent | MTBE | 1.0 ml | CC(C)(C)OC | C5H12O
product | 2-Methyl-6-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)propoxymethyl]benzoic acid | CC1=C(C(=O)O)C(=CC=C1)COCCCOCC=1N=C(OC1C)C=1C=C(C=CC1)C | C24H27NO5
